US07989622B2
N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)-3-nitrobenzenesulfonamide.
A flask was charged with N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide (5 g, 13.7 mmol), prepared using procedures similar to those in Example 1, 3,5-dimethoxyaniline (4.2 g, 27.4 mmol), and 80 mL of xylene. The reaction mixture was stirred under an N2 atmosphere at 150° C. for 3 hours, after which time, solvent was removed on a rotary evaporator, and 10 mL of Dichloromethane and 50 mL of methanol were added. The slurry was heated to reflux and filtered while hot, resulting in 4.6 g (69.7%) of N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)-3-nitrobenzenesulfonamide MS (EI) m/z for C22H19N5O6S: 482.2 (MH+).

reactant | N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide | 13.7 mmol, 5 g | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H9ClN4O4S
reactant | 3,5-dimethoxyaniline | 27.4 mmol, 4.2 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
solvent | xylene | 80 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)-3-nitrobenzenesulfonamide | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C22H19N5O6S
